US05534529
N-[2-t-Butyl-5-(6-cyclohexyl-1-hydroxyhexyl)phenyl]-2-(9H-xanthen-9-yl)acetamide (Compound No. 1-275)
Following a procedure similar to that described in Example 14, but using 5-cyclohexylpentylmagnesium iodide and N-(2-t-butyl-5-formylphenyl)-2-(9H-xanthen-9-yl)acetamide (prepared as described in Preparation 15) as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained as a foam-like substance.

reactant | 5-cyclohexylpentylmagnesium iodide | C1(CCCCC1)CCCCC[Mg]I
reactant | N-(2-t-butyl-5-formylphenyl)-2-(9H-xanthen-9-yl)acetamide | C(C)(C)(C)C1=C(C=C(C=C1)C=O)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C26H25NO3
product | N-[2-t-Butyl-5-(6-cyclohexyl-1-hydroxyhexyl)phenyl]-2-(9H-xanthen-9-yl)acetamide | C(C)(C)(C)C1=C(C=C(C=C1)C(CCCCCC1CCCCC1)O)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C37H47NO3
